US07786165B2
4-{[5-(trifluoromethyl)pyridin-2-yl]oxy}indan-1-one
A mixture of 4-hydroxyindan-1-one (2.94 g, 19.8 mmol), 2-chloro-5-(trifluoromethyl)pyridine (3.00 g, 16.5 mmol), potassium-carbonate (6.84 g, 49.5 mmol) and N,N-dimethylformamide (40 mL) was stirred under a nitrogen atmosphere at 100° C. for 8 hr. After cooling, the reaction mixture was diluted with ethyl acetate, washed with water, dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=95/5-hexane/ethyl acetate=60/40) to give the title compound (2.74 g, yield 69%) as pale-yellow crystals.

reactant | 4-hydroxyindan-1-one | 19.8 mmol, 2.94 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 16.5 mmol, 3.00 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | potassium-carbonate | 49.5 mmol, 6.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{[5-(trifluoromethyl)pyridin-2-yl]oxy}indan-1-one | 2.74 g, yield 69% | FC(C=1C=CC(=NC1)OC1=C2CCC(C2=CC=C1)=O)(F)F | C15H10F3NO2
